USH0001223
Chlorofluoronitroacetic Acid, Oleum-Trifluoroacetic Acid Procedure. A solution of 100% nitric acid (5 mL) and trifluoroacetic acid (4.2 mL, 54 mmol) in 30% oleum (6 mL) was added over 25 min to 1,2-dichlorodifluoroethylene (7.5 g, 56 mmol) at 10°-15° C. The mixture was stirred for 60 min at 10°-14° C. The organic layer was separated, and fractionally distilled to give 2.1 g (14.5%) of 1,2-dichloro-1,2-difluoro-1-nitroethyl trifluoroacetate, as a 50:50 mixture of diasterimers, bp 48°-50° C. (0.5 mm): 19F NMR (CDCl3 ) δ -76.27 (s, 6 F), -77.50 (s,1 F), -78.49 (s, 1F), -94.37 (s, 1 F), -95.30 (s, 1 F). The second fraction contained 4.0 g of chlorofluoronitroacetic acid, bp 55°-65° C. (0.5 mm), identical to the authentic material prepared above. The oleum layer was heated to 80° C. under vacuum (0.5 mm) to give an additional 1.61 g (63% combined yield) of chlorofluoronitroacetic acid.

reactant | Chlorofluoronitroacetic Acid | ClC(C(=O)O)([N+](=O)[O-])F | C2HClFNO4
reactant | Oleum Trifluoroacetic Acid | OS(=O)(=O)O.O=S(=O)=O.FC(C(=O)O)(F)F
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | trifluoroacetic acid | 54 mmol, 4.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,2-dichlorodifluoroethylene | 56 mmol, 7.5 g | ClC(=C(Cl)F)F | C2Cl2F2
solvent | oleum | 6 mL | OS(=O)(=O)O.O=S(=O)=O
product | 1,2-dichloro-1,2-difluoro-1-nitroethyl trifluoroacetate | 2.1 g, 14.5% | FC(C(=O)OC(C([N+](=O)[O-])(F)Cl)(F)Cl)(F)F | C4Cl2F5NO4
